US04847273
A solution of 4.27 g (0.01 mol) of 6-(α-acetyl-N-methyl-3-nitrostyrenesulfonamido)caproic acid ethyl ester in 30 ml of ethanol is treated with 1.15 g (0.01 mol) of 3-aminocrotonic acid methyl ester and 1.16 g (0.005 mol) of DL-camphor-10-sulfonic acid analogously to Example 1. After chromatography on silica gel with methylene chloride/ethyl acetate (9:1) as the elution agent the crude product is recrystallized from methylene chloride/ether. There are obtained 3.4 g (65%) of 5-{[5-(ethoxycarbonyl)pentyl]methylsulfamoyl}-1,4-dihydro-2,6-dimethyl-4-(3-nitrophenyl)nicotinic acid methyl ester, m.p. 83°-86°, as a colorless crystalline powder.

reactant | 6-(α-acetyl-N-methyl-3-nitrostyrenesulfonamido)caproic acid ethyl ester | 0.01 mol, 4.27 g | C(C)OC(CCCCCN(S(=O)(=O)C=C(C1=CC(=CC=C1)[N+](=O)[O-])C(C)=O)C)=O | C19H26N2O7S
reactant | 3-aminocrotonic acid methyl ester | 0.01 mol, 1.15 g | COC(\C=C(\C)/N)=O | C5H9NO2
reactant | ethanol | 30 ml | C(C)O | C2H6O
product | 5-{[5-(ethoxycarbonyl)pentyl]methylsulfamoyl}-1,4-dihydro-2,6-dimethyl-4-(3-nitrophenyl)nicotinic acid methyl ester | 3.4 g, 65% | COC(C1=C(NC(=C(C1C1=CC(=CC=C1)[N+](=O)[O-])S(N(C)CCCCCC(=O)OCC)(=O)=O)C)C)=O | C24H33N3O8S
